US04940710
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(phenoxymethyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A 0.6 g portion of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.23 g of 3-(phenoxymethyl)piperazine and 5 ml of pyridine were reacted as described in Example 81, giving 235 mg of the desired product, mp 112°-115° C.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 3-(phenoxymethyl)piperazine | 1.23 g | O(C1=CC=CC=C1)CC1CNCCN1 | C11H16N2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(phenoxymethyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 235 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)COC1=CC=CC=C1)F)=O)C(=O)O | C24H24FN3O4
